US06121480
4-chlorophenylmagnesium chloride (114 g, 18% solution in tetrahydrofuran) is added dropwise over seven hours to a refluxing solution of 4-bromobenzonitrile (20 g), palladium (II) chloride (0.78 g ) and triphenylphosphine (2.3 g) in tetrahydrofuran (100 ml). [HPLC: yield 75-79%]. After cooling to room temperature tetrahydrofuran is removed under vacuum. The residue is taken up in toluene/water (1:1) (200 ml) and filtered. The aqueous phase is separated off, and the solvent removed by distillation. The crude product is recrystallised from isopropanol/ethanol to give 4'-chlorobiphenyl-4-carbonitrile as a solid, m.pt. 128-130° C. 1H NMR (CDCl3): 2.41(s,3H), 7.46(d,2H), 7.53(d,2H), 7.65(d,2H), 7.74(d,2H).

reactant | 4-chlorophenylmagnesium chloride | 114 g | ClC1=CC=C(C=C1)[Mg]Cl
reactant | 4-bromobenzonitrile | 20 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | triphenylphosphine | 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium (II) chloride | 0.78 g | [Pd](Cl)Cl
product | 4'-chlorobiphenyl-4-carbonitrile | yield 75-79% | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H8ClN
